US05166181
60 g (0.30 mols) of 3-bromoacetophenone are dissolved in 800 ml of ethanol and mixed with 250 ml of dimethylamine. The pH of the solution is adjusted to 6.5 with acetic acid. The reaction mixture is then cooled to 0° and mixed with 19 g of sodium cyanoborohydride. After stirring for 2 days at room temperature, the reaction mixture is concentrated. The residue is mixed with 800 ml of water and acidified. The solution is then extracted twice with 400 ml of ether, the aqueous phase is rendered basic and extraction follows 3× with 400 ml of ether. The combined organic extracts are dried and concentrated. After distillation of the residue, the 3-bromo-N,N,α-trimethylbenzenemethanamine is obtained; b.p.: 98°-100°/10 mmHg.

reactant | 3-bromoacetophenone | 0.30 mols, 60 g | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | dimethylamine | 250 ml | CNC | C2H7N
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 19 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 3-bromo-N,N,α-trimethylbenzenemethanamine | BrC=1C=C(C=CC1)C(N(C)C)C | C10H14BrN
